US04226773
5-Amino-3-methyl-1-(3,4-dichlorophenyl) pyrazole
3,4-Dichlorophenyl hydrazine HCl (50.0 g.) was reacted with 3-amino-2-butene nitrile (18.31 g.) as described in Example XLIII to give 18.7 g. product, mp 110°-112°.

reactant | 3,4-Dichlorophenyl hydrazine HCl | 50.0 g | Cl.ClC=1C=C(C=CC1Cl)NN
reactant | 3-amino-2-butene nitrile | 18.31 g | NC(=CC#N)C | C4H6N2
product | 5-Amino-3-methyl-1-(3,4-dichlorophenyl) pyrazole | NC1=CC(=NN1C1=CC(=C(C=C1)Cl)Cl)C | C10H9Cl2N3
